US09388189B2
(S)-4-Amino-6-((1-(5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-2-(1-Aminoethyl)-5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (267 mg, 0.54 mmol), 4-amino-6-chloropyrimidine-5-carbonitrile (123 mg, 0.81 mmol) and DIEA (280 μl, 1.61 mmol) in 10 ml of tert-BuOH were stirred overnight at 80° C. After evaporation of the solvent under reduced pressure, the residue was purified using SP1® Purification System (0% to 20%, DCM-MeOH) to obtain 9 mg of the title compound as a solid. Purity 99%.

reactant | (S)-2-(1-Aminoethyl)-5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.54 mmol, 267 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=C(C=CC=C2)NCCN(C)C | C24H28N6OS
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.81 mmol, 123 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | DIEA | 1.61 mmol, 280 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | tert-BuOH | 10 ml | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-6-((1-(5-((2-((2-(dimethylamino)ethyl)amino)phenyl)thio)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile | 9 mg | NC1=NC=NC(=C1C#N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)SC2=C(C=CC=C2)NCCN(C)C | C29H30N10OS
